US06313312B1
3-(3-Benzyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine
Lithium aluminium hydride (1M in tetrahydrofuran, 11.84 ml, 11.84 mmol) was added dropwise to dry tetrahydrofuran (60 ml) under nitrogen. 6-(3-Aninophenyl)-3-benzyl-6-methyl-3-azabicyclo[3.1.0]hexan-2-one (Preparation 29, 1.73 g, 5.90 mmol) was suspended in dry tetrahydrofuran (100 ml) and added slowly to the lithium aluminium hydride solution by cannula. The reaction was then heated at 50° C. for 2 hours. After cooling, water (20 ml) was cautiously added to the solution, the pH of the aqueous layer was adjusted to 4 by the addition of 2N hydrochloric acid and then adjusted to 10 using dilute sodium hydroxide solution. The mixture was extracted with ethyl acetate (3×200 ml), and the combined extracts were washed with water (100 ml), dried (Na2SO4) and concentrated in vacuo to give the title compound as a yellow oil (1.58 g, 96%).

reactant | Lithium aluminium hydride | 11.84 mmol, 1M, 11.84 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-(3-Aninophenyl)-3-benzyl-6-methyl-3-azabicyclo[3.1.0]hexan-2-one | 5.90 mmol, 1.73 g | NC=1C=C(C=CC1)C1(C2CN(C(C12)=O)CC1=CC=CC=C1)C | C19H20N2O
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 3-(3-Benzyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine | 1.58 g, 96% | C(C1=CC=CC=C1)N1CC2C(C2C1)(C)C=1C=C(C=CC1)N | C19H22N2
